US06706725B1
c) (E)-6-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-2-thienyl}-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol
1.7 g (3 mmol) of 2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-5-((E)-1-ethyl-but-1-en-3-ynyl)thiophene are dissolved in 50 mL of THF and the mixture is cooled to −78° C. 1.3 mL (3.3 mmol) of 2.5 M butyllithium are then added. After stirring for 15 minutes at the same temperature, a gentle flow of hexafluoroacetone (gas) is introduced into the reaction medium. After reaction for 20 minutes at −78° C., the flow of gas is stopped and the reaction medium is treated in the usual manner. The residue obtained is purified by chromatography on silica gel. The desired product is obtained in the form of a yellow oil (1 g).

reactant | 2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-5-((E)-1-ethyl-but-1-en-3-ynyl)thiophene | 3 mmol, 1.7 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2SC(=CC2)\C(=C\C#C)\CC)C=CC1CO[Si](C)(C)C(C)(C)C | C31H48O3SSi2
reactant | butyllithium | 3.3 mmol, 2.5 M, 1.3 mL | C(CCC)[Li]
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (E)-6-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-2-thienyl}-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/C#CC(C(F)(F)F)(O)C(F)(F)F)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C34H48F6O4SSi2
